### PR TITLE
[Merged by Bors] - feat(CategoryTheory/ObjectProperty): closure of a property under certain colimits

### PR DESCRIPTION
**Pull request by joelriou**
In this PR, we dualize a few notions about `ObjectProperty` and we use this to dualize the main result about limits in #29854 for colimits: given a property `P` of objects in a category `C` and family of categories `J : α → Type _`, we introduce the closure `P.colimitsClosure J` of `P` under colimits of shapes `J a` for all `a : α`, and under certain smallness circumstances, we show that it is essentially small.

---

- [x] depends on: #29851
- [x] depends on: #29881
- [x] depends on: #29903
- [x] depends on: #29854

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/ObjectProperty/ColimitsClosure.lean [hunk 1]
```diff
@@ -0,0 +1,91 @@
...
+import Mathlib.CategoryTheory.ObjectProperty.LimitsClosure
+import Mathlib.CategoryTheory.ObjectProperty.ColimitsOfShape
+
+/-!
+# Closure of a property of objects under colimits of certain shapes
+
+In this file, given a property `P` of objects in a category `C` and
+family of categories `J : α → Type _`, we introduce the closure
+`P.colimitsClosure J` of `P` under colimits of shapes `J a` for all `a : α`,
+and under certain smallness assumptions, we show that its essentially small.
```
Comment (joelriou) [inline Mathlib/CategoryTheory/ObjectProperty/ColimitsClosure.lean]:
```suggestion
and under certain smallness assumptions, we show that it is essentially small.
```

File: Mathlib/CategoryTheory/ObjectProperty/ColimitsOfShape.lean [hunk 2]
```diff
@@ -182,6 +194,159 @@ lemma prop_colimit (F : J ⥤ C) [HasColimit F] (hF : ∀ (j : J), P (F.obj j))
...
+lemma colimitsOfShape_congr (e : J ≌ J') :
+    P.colimitsOfShape J = P.colimitsOfShape J' :=
+  le_antisymm (P.colimitsOfShape_le_of_final e.inverse)
+    (P.colimitsOfShape_le_of_final e.functor)
+
+variable {J} in
+lemma isClosedUnderColimitsOfShape_iff_of_equivalence (e : J ≌ J') :
+    P.IsClosedUnderColimitsOfShape J ↔
+      P.IsClosedUnderColimitsOfShape J' := by
+  simp only [isClosedUnderColimitsOfShape_iff, P.colimitsOfShape_congr e]
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/ObjectProperty/ColimitsOfShape.lean]:
```suggestion
  simp [isClosedUnderColimitsOfShape_iff, P.colimitsOfShape_congr e]
```

File: Mathlib/CategoryTheory/ObjectProperty/ColimitsOfShape.lean [hunk 3]
```diff
@@ -182,6 +194,159 @@ lemma prop_colimit (F : J ⥤ C) [HasColimit F] (hF : ∀ (j : J), P (F.obj j))
...
+      isLimit := isLimitOfUnop h.isColimit
+      prop_diag_obj _ := h.prop_diag_obj _
+    }⟩
+  · rintro ⟨h⟩
+    exact ⟨{
+      diag := h.diag.unop
+      ι := NatTrans.unop h.π
+      isColimit := isColimitOfOp h.isLimit
+      prop_diag_obj _ := h.prop_diag_obj _
+    }⟩
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/ObjectProperty/ColimitsOfShape.lean]:
```suggestion
  refine ⟨fun ⟨h⟩ => ⟨?_⟩, fun ⟨h⟩ => ⟨?_⟩⟩
  · exact
      { diag := h.diag.op
        π := NatTrans.op h.ι
        isLimit := isLimitOfUnop h.isColimit
        prop_diag_obj _ := h.prop_diag_obj _ }
  · exact
      { diag := h.diag.unop
        ι := NatTrans.unop h.π
        isColimit := isColimitOfOp h.isLimit
        prop_diag_obj _ := h.prop_diag_obj _ }
```

Using this `refine ⟨fun ⟨h⟩ => ⟨?_⟩, fun ⟨h⟩ => ⟨?_⟩⟩` instead of `constructor` trick, we can remove the dreaded `⟨{` that forces orphaned delimiters.

It is, however purely a matter of taste, so completely up to you.

**Review by robin-carlier — COMMENTED** [review]
Only very very minor comments.

File: Mathlib/CategoryTheory/ObjectProperty/ColimitsOfShape.lean [hunk 4]
```diff
@@ -182,6 +194,155 @@ lemma prop_colimit (F : J ⥤ C) [HasColimit F] (hF : ∀ (j : J), P (F.obj j))
...
+      isColimit := isColimitOfUnop h.isLimit
+      prop_diag_obj _ := h.prop_diag_obj _
+    }⟩
+  · rintro ⟨h⟩
+    exact ⟨{
+      diag := h.diag.unop
+      π := NatTrans.unop h.ι
+      isLimit := isLimitOfOp h.isColimit
+      prop_diag_obj _ := h.prop_diag_obj _
+    }⟩
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/ObjectProperty/ColimitsOfShape.lean]:
```suggestion
  refine ⟨fun ⟨h⟩ => ⟨?_⟩, fun ⟨h⟩ => ⟨?_⟩⟩
  · exact
      { diag := h.diag.op
        ι := NatTrans.op h.π
        isColimit := isColimitOfUnop h.isLimit
        prop_diag_obj _ := h.prop_diag_obj _ }
  · exact
      { diag := h.diag.unop
        π := NatTrans.unop h.ι
        isLimit := isLimitOfOp h.isColimit
        prop_diag_obj _ := h.prop_diag_obj _ }
```

Since you went with the suggestion for the lemma above, might as well be consistent with this one.

**Comment by joelriou** [comment]
Thanks @robin-carlier for the reviews!
